************************************************************************
* auCdl Netlist:
* 
* Library Name:  gsclib045
* Top Cell Name: LSLH_ISONL_X1_FROM_OFF
* View Name:     schematic
* Netlisted on:  Jun  4 07:44:02 2012
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL VSS:G
+        VDD:P
+        ExtVDD:P
+        ExtVSS:G

*.PIN VSS
*+    VDD
*+    ExtVDD
*+    ExtVSS

************************************************************************
* Library Name: gsclib045
* Cell Name:    LSLH_ISONL_X1_FROM_OFF
* View Name:    schematic
************************************************************************

.SUBCKT LSLH_ISONL_X1_FROM_OFF A ExtVDD ISOn VDD VSS Y
*.PININFO A:I ExtVDD:I ISOn:I VDD:I VSS:I Y:O
Mmn0 Y Ybint VSS VSS g45n1svt m=1 l=45n w=260n
MNM3 GatedVSS ISOn VSS VSS g45n1svt m=1 l=45n w=1.04u
MNM2 GatedVSS A Ab VSS g45n1svt m=1 l=45n w=145n
MNM0 Ybint A GatedVSS VSS g45n1svt m=1 l=45n w=780n
MNM1 Yint Ab GatedVSS VSS g45n1svt m=1 l=45n w=780n
MPM0 Ybint Yint ExtVDD ExtVDD g45p1svt m=1 l=45n w=215n
MPM3 Ybint ISOn ExtVDD ExtVDD g45p1svt m=1 l=45n w=215n
MPM1 Yint Ybint ExtVDD ExtVDD g45p1svt m=1 l=45n w=215n
Mmp0 Y Ybint ExtVDD ExtVDD g45p1svt m=1 l=45n w=390n
MPM2 Ab A VDD VDD g45p1svt m=1 l=45n w=215n
.ENDS

